US04695573
9-(4,4-Diphenylbutyl)amino-1,2,3,4-tetrahydroacridin-1-ol
In 30 ml of dry THF was dissolved 3.00 g of 3,4-dihydro-9-(4,4-diphenylbutyl)aminoacridin-1(2H)-one and the mechanically stirred solution was cooled in an ice bath under nitrogen atmosphere. To the solution under nitrogen was added 6.48 ml of 1M LiAlH4 in THF. Within 0.5 hour after addition the reaction was complete by TLC. The reaction was neutralized with 1 ml of saturated ammonium chloride solution and the inorganics were filtered off. The filtrate was evaporated to an oil and the oil was triturated with 30 ml of 10:1 ether/acetone to yield 2.22 g of solid, mp 147°-148° C. This sample was combined with a 1.0 g sample of an identical previous run and recrystallized from acetone to yield 2.87 g of powder, mp 146°-148° C.

reactant | 3,4-dihydro-9-(4,4-diphenylbutyl)aminoacridin-1(2H)-one | 3.00 g | C1(=CC=CC=C1)C(CCCNC=1C2=CC=CC=C2N=C2CCCC(C12)=O)C1=CC=CC=C1 | C29H28N2O
reactant | LiAlH4 | 1M, 6.48 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ammonium chloride | 1 ml | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 9-(4,4-Diphenylbutyl)amino-1,2,3,4-tetrahydroacridin-1-ol | 2.22 g | C1(=CC=CC=C1)C(CCCNC=1C2=CC=CC=C2N=C2CCCC(C12)O)C1=CC=CC=C1 | C29H30N2O
